2110-04-05 06:05:00 Physician Resident Progress Note
Chief Complaint: fever, cough, SOB
   24 Hour Events:
   - Started Vanc/Ceftraixone/Azithro
   - Given Codeine cough syrup
   - Urine legionella antigen negative
   - Started chest PT
   - ID requested LL Decub film to assess for layering pleural effusion,
   limited study, but some degree of simple effusion in addition to
   consolidation noted
   - switched to NC in the PM, at 6pm on 4L, sat'ing in the 90's
   - spiked to 102.7 at MN, AM labs w/ cx's drawn then
   - required 10L at night and @5AM, RR staying at in the 50's, patient
   with anterior retractions, but too sleepy to determine if her
   subjective work of breathing was worse, repeat ABG 7.45/39/96, switched
   to high flow with improved oxygenation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-4-4**] 09:00 AM
   Ceftriaxone - [**2110-4-4**] 11:20 AM
   Vancomycin - [**2110-4-4**] 08:05 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-5**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38
C (100.4
   HR: 83 (76 - 113) bpm
   BP: 126/54(73) {85/45(60) - 126/75(84)} mmHg
   RR: 43 (15 - 50) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,838 mL
                                                                    888 mL
   PO:
             TF:
   IVF:
                                                                  3,838 mL
                                                                    888 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    200 mL
   Urine:
                                                                  1,400 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,438 mL
                                                                    688 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.45/39/95.[**Numeric Identifier **]/23/2
   PaO2 / FiO2: 96
   Physical Examination
   General: Alert, oriented, mild respiratory distress wearing high flow
   face mask
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Decreased breath sounds at the left base & bronchial breath
   sounds on the left 2/3 up the posterior lung fields.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   233 K/uL
   13.8 g/dL
   98 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   40.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2110-4-4**]  09:13 AM
                             [**2110-4-5**]  12:10 AM
                             [**2110-4-5**]  05:53 AM
   WBC
   4.0
   Hct
   40.7
   Plt
   233
   Cr
   0.7
   TCO2
   25
   28
   Glucose
   98
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Imaging: LL Decubitius [**2110-4-4**]: FINDINGS: Exam is technically limited
   due to exclusion of part of the lateral
   left hemithorax from the radiograph. With this limitation in mind,
   there
   appears to be at least partial layering of the left pleural effusion,
   tracking
   towards the left apex. If warranted, the decubitus view could be
   repeated at no additional charge. Extensive pneumonic consolidation is
   present in the left lung and there has been apparent rapid worsening of
   airspace disease within the right lung.
   Microbiology: Blood cx [**Date range (1) 11544**]:pending
   Urine Legionella antigen [**4-4**]: negative
   Sputum cx [**4-4**]: contaminant
   Assessment and Plan
   20yo F with no PMHx admitted with CAP after failing outpatient
   treatment now transferred to the [**Hospital Unit Name 10**] with increasing O2 requirement
   and rapidly progressive multifocal PNA on CT scan from overnight.
   # Multifocal PNA: Tolerating changing levels of O2 over the past 24
   hours, but currently on high flow face mask with decreased reserve with
   activity, increased RR. Minimal sleep overnight, but continues to sat
   >90% and most recent ABG does not demonstrate e/o CO2 retention.
   Continues to spike fevers on antibiotics. No definitive pathogen, but
   given clinical history and radiology, most consistent with strep or
   possibly staph. Urine Legionella negative. ID following.
   - Considering intubation given patient
s worsening clinical picture,
   patient & family aware
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 2
   - F/U HIV
   - F/U blood cultures
   - F/U ID recs
   - Re-send sputum cx
   - Continue chest PT, expectorants, Tylenol PRN
   FEN: IVF NS@150/hr (already received 1L NS bolus this am), replete
   electrolytes, regular diet
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2110-4-4**] 08:38 AM
   Prophylaxis:
   DVT: (TEDs), refusing SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient
   Code status: Full code
   Disposition: pending decreased O2 requirement

2110-04-05 08:37:00 Physician Attending Progress Note
Chief Complaint: multilobar pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   20 y.o. woman with pneumococcoal pneumonia
   24 Hour Events:
 FEVER - 102.4
F - [**2110-4-5**] 12:00 AM
   Increasing work of breathing, increasing oxygen requirements overnight,
   using accessory muscles
   7.45/39/96 on HFFM
   7.43/34/92 on
   7.45/36/89
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-4-4**] 09:00 AM
   Ceftriaxone - [**2110-4-4**] 11:20 AM
   Vancomycin - [**2110-4-4**] 08:05 PM
   Azithromycin - [**2110-4-5**] 07:09 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2110-4-5**] 08:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.9
C (100.3
   HR: 100 (76 - 113) bpm
   BP: 116/60(75) {85/45(60) - 131/75(84)} mmHg
   RR: 38 (15 - 50) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,838 mL
                                                                  1,990 mL
   PO:
                                                                  1,000 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  3,838 mL
                                                                  1,490 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    700 mL
   Urine:
                                                                  1,400 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,438 mL
                                                                  1,290 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.45/39/95.[**Numeric Identifier **]/23/2
   PaO2 / FiO2: 101
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left [**1-18**] way up),
   egophony, BBS on left
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.8 g/dL
   233 K/uL
   98 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   5 mg/dL
   105 mEq/L
   139 mEq/L
   40.7 %
   4.0 K/uL
        [image002.jpg]
                             [**2110-4-4**]  09:13 AM
                             [**2110-4-5**]  12:10 AM
                             [**2110-4-5**]  05:53 AM
   WBC
   4.0
   Hct
   40.7
   Plt
   233
   Cr
   0.7
   TCO2
   25
   28
   Glucose
   98
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CT chest:  multilobar alveolar infiltrates, L > R, moderate
   effusion on left
   Lateral CXR demonstrates layering
   Microbiology: Blood cultures pending
   Urine Legionella ag negative
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):  No organism
   identified albeit concerning for pneumococcal pneumonia.  Continues on
   vanco/ceftriaxone/azithromycin.  Mostly dry cough. Will continue to
   attempt to send off sputum for gram stain, C & S.  Will evaluate for
   PICC line given she will need prolonged IV antibiotics.  Appreciate ID
   consultants input.  Will review films and consider US and diagnostic
   thorocentesis to evaluate for complicated parapneumonic effusion vs.
   empyema.  Check coags prior to any procedures.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2110-04-06 06:43:00 Physician Resident Progress Note
Chief Complaint: CC: Shortness of Breath
   [**Hospital Unit Name 10**] Admission: Hypoxic Respiratory Failure
   24 Hour Events:
   - IP evaluated for [**Female First Name (un) 231**], but not enough fluid to tap
   - ongoing fevers
   - ID recommended continued abx and to check a vanco level after 4 doses
   (tonight)
   - patient agreeing to HSQ
   - HIV negative, patient notified
   - sputum cultures - oral flora
   - urine legionella negative
   - patient desats with ambulation to bedpan
   - Patients father wanted us to be aware that patient has two false
   teeth on her upper front teeth
   - repeat ABG for ongoing RR in the 40s/50s --> 7.43/43/84/29
   - Father's cell phone (Dr. [**Known lastname 11556**] [**Telephone/Fax (1) 11557**]
   - patient intubated for worsening hypoxia and increasing oxgyen
   reqruirement at 3:30.
   - She was difficult to ventilated with sats in the 60s, requiring bag
   mask ventillation, 100% FIO2, and paralysis with vecuronium.  CXR
   showed pulmonary edema --> 40 of lasix given and pt diuresed >2L in 3
   hours
   - Patient was transitioned to the vent after 20 minutes at 100%,
   450x20, PEEP 12 --> ABG 7.47/42/98/31
   - patient started on neo for low pressures in the setting of sedation
   and paralysis
 ULTRASOUND - At [**2110-4-5**] 01:40 PM
   thoracic US by IP
 ARTERIAL LINE - START [**2110-4-6**] 05:30 AM
 FEVER - 102.1
F - [**2110-4-5**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-4-4**] 09:00 AM
   Azithromycin - [**2110-4-5**] 07:09 AM
   Ceftriaxone - [**2110-4-5**] 09:36 AM
   Vancomycin - [**2110-4-5**] 08:00 PM
   Aztreonam - [**2110-4-6**] 06:21 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Vecuronium - 0.14 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-6**] 12:05 AM
   Furosemide (Lasix) - [**2110-4-6**] 03:30 AM
   Vecuronium - [**2110-4-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-6**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102
   HR: 83 (72 - 116) bpm
   BP: 149/71(87) {149/71(87) - 149/71(87)} mmHg
   RR: 20 (20 - 47) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,627 mL
                                                                    208 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  4,707 mL
                                                                    208 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  2,000 mL
   Urine:
                                                                  2,700 mL
                                                                  2,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,927 mL
                                                                 -1,792 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.47/42/98.[**Numeric Identifier 500**]/28/6
   Ve: 10.2 L/min
   PaO2 / FiO2: 98
   Physical Examination
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: L base)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   408 K/uL
   13.1 g/dL
   110 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   5 mg/dL
   100 mEq/L
   139 mEq/L
   38.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2110-4-4**]  09:13 AM
                             [**2110-4-5**]  12:10 AM
                             [**2110-4-5**]  05:53 AM
                             [**2110-4-5**]  08:15 AM
                             [**2110-4-5**]  11:49 PM
                             [**2110-4-6**]  02:06 AM
                             [**2110-4-6**]  05:03 AM
                             [**2110-4-6**]  06:15 AM
   WBC
   4.0
   9.9
   Hct
   40.7
   38.3
   Plt
   233
   408
   Cr
   0.7
   0.7
   TCO2
   25
   28
   26
   29
   29
   31
   Glucose
   98
   110
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:53/119, Alk Phos /
   T Bili:42/0.3, Differential-Neuts:63.0 %, Band:19.0 %, Lymph:13.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:410 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR [**2110-4-6**]:
   Diffuse bilateral interstitial opacities c/w pulmonary edema
   Microbiology: [**2110-4-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2110-4-5**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2110-4-5**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2110-4-5**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-4-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2110-4-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-4-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-4-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2110-4-3**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2110-4-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2110-4-3**]  Influenza A/B by DFA DIRECT INFLUENZA A ANTIGEN TEST-FINAL;
   DIRECT INFLUENZA B ANTIGEN TEST-FINAL INPATIENT
   [**2110-4-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
   20yo F with no PMHx admitted with CAP after failing outpatient
   treatment now transferred to the [**Hospital Unit Name 10**] with increasing O2 requirement
   and rapidly progressive multifocal PNA on CT scan, now intubated on
   vent for episode of hypoxia overnight.
   # Respiratory Failure: Difficult intubation overnight with episode of
   perintubation hypoxia that resolved with lasix and bag mask
   ventilation.  Now oxygenating well on assist control 450/20/12/100,
   last ABG 7.47/42/98/28/6.  Likely secondary to pneumonia and fluid
   overload, put out ~2L to 40mg of IV lasix.
   - Wean FiO2
   - decrease Vt, increase RR to maintain minute ventilation
   - d/c paralytics
   - Continue chest PT, expectorants, Tylenol PRN
   - diurese with IV lasix if UOP < 100cc/hr
   .
   # Multifocal PNA:  On vanc/ceftraixone/azithromycin, white count
   increased this am, persistently febrile.
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 3
   - repeat sputum cx
   - f/u blood cultures
   - f/u ID recs
   .
   # Hypokalemia, hypomagnesemia
 replete prn
   # Access
 has three PIVs, A-line
   - place CVL
   ICU Care
   Nutrition:
   Comments: start tubefeeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   20 Gauge - [**2110-4-5**] 09:00 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-6**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2110-04-06 12:16:00 Physician Attending Progress Note
Chief Complaint: acute hypoxic respiratory failure, multilobar
   pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   20 y.o. woman with multilobar community acquired pneumonia, acute
   hypoxic repsiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2110-4-5**] 01:40 PM
   thoracic US by IP
   Increased oxygen requirements overnight, significant and sustained
   desaturations with coughing, minimal exertion prompting decision to
   intubate.  Noted to have frothy pink secretions at time of intubation.
   Patient sedated and paralyzed overnight.
   FiO2 weaned to 70%
   Esophageal baloon placed, optimal PEEP 12
   No autoPEEP
   TV decreased to 8 ml/kg
   No secretions per ETT this am
 INVASIVE VENTILATION - START [**2110-4-6**] 03:38 AM
 ARTERIAL LINE - START [**2110-4-6**] 05:30 AM
 FEVER - 102.1
F - [**2110-4-5**] 04:00 PM
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2110-4-4**] 09:00 AM
   Azithromycin - [**2110-4-5**] 07:09 AM
   Aztreonam - [**2110-4-6**] 06:21 AM
   Vancomycin - [**2110-4-6**] 10:00 AM
   Ceftriaxone - [**2110-4-6**] 10:07 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-6**] 12:05 AM
   Vecuronium - [**2110-4-6**] 04:00 AM
   Midazolam (Versed) - [**2110-4-6**] 10:35 AM
   Fentanyl - [**2110-4-6**] 10:38 AM
   Furosemide (Lasix) - [**2110-4-6**] 11:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2110-4-6**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.8
C (100.1
   HR: 84 (72 - 116) bpm
   BP: 128/55(74) {107/48(65) - 149/71(87)} mmHg
   RR: 22 (20 - 47) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 57 kg (admission): 63.5 kg
             Total In:
                                                                  5,627 mL
                                                                    787 mL
   PO:
                                                                    920 mL
             TF:
   IVF:
                                                                  4,707 mL
                                                                    787 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  2,410 mL
   Urine:
                                                                  2,700 mL
                                                                  2,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,927 mL
                                                                 -1,623 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 95%
   ABG: 7.45/38/118/28/2
   Ve: 9.4 L/min
   PaO2 / FiO2: 169
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left lower lung zone,
   BBS left posterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.1 g/dL
   408 K/uL
   110 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   5 mg/dL
   100 mEq/L
   139 mEq/L
   38.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2110-4-4**]  09:13 AM
                             [**2110-4-5**]  12:10 AM
                             [**2110-4-5**]  05:53 AM
                             [**2110-4-5**]  08:15 AM
                             [**2110-4-5**]  11:49 PM
                             [**2110-4-6**]  02:06 AM
                             [**2110-4-6**]  05:03 AM
                             [**2110-4-6**]  06:15 AM
                             [**2110-4-6**]  09:16 AM
                             [**2110-4-6**]  10:41 AM
   WBC
   4.0
   9.9
   Hct
   40.7
   38.3
   Plt
   233
   408
   Cr
   0.7
   0.7
   TCO2
   25
   28
   26
   29
   29
   31
   31
   27
   Glucose
   98
   110
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:53/119, Alk Phos /
   T Bili:42/0.3, Differential-Neuts:80.0 %, Band:6.0 %, Lymph:9.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL,
   LDH:410 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):  Multilobar, sputum
   samples sent prior to intubation contaminated with oral flora.
   Continues empiric broad spectrum antibiotics, ID following. Prior CT
   did not show enough pleural fluid to warrant diagnostic thorocentesis
   as per ICU team and IP consult.  Patient currently not stable to
   transfer off the floor for repeat CT chest albeit if she remains
   persistently febrile and is clinically stable enough would reconsider
   CT chest.  Repeat sputum culture sent from ETT/deep suctioning.   Hold
   on further diuresis, replet K and Mg, follow electrolytes.
 ACUTE HYPOXIC RESPIRATORY FAILURE:  Secondary to the above.  CXR has
   progressed with worsening bilateral alveolar infiltrates.  Component of
   cardiogenic/noncardiogenic pulmonary edema, some improvement with
   diuresis albeit still requiring 70% FiO2.  Decreased TV, assessed for
   optimal PEEP with esophageal balloon, stopped paralytics.
   Else agree with detailed assessment and plan as per [**Hospital **] medical
   resident's note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   20 Gauge - [**2110-4-5**] 09:00 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-6**] 05:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2110-04-08 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.2
F - [**2110-4-7**] 08:00 AM
   - FiO2 weaned to 40%: pH 7.43 - pCO2 40-  pO2 118
   - C. diff negative
   - paralytics stopped, TF's restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Aztreonam - [**2110-4-6**] 06:21 AM
   Ceftriaxone - [**2110-4-7**] 10:00 AM
   Vancomycin - [**2110-4-8**] 12:00 AM
   Azithromycin - [**2110-4-8**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-8**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100
   HR: 90 (74 - 90) bpm
   BP: 114/48(67) {108/43(60) - 139/60(81)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,434 mL
                                                                    749 mL
   PO:
             TF:
                                                                     60 mL
                                                                     64 mL
   IVF:
                                                                  2,254 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    655 mL
   Urine:
                                                                  1,123 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/40/118/26/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General: Intubated, sedated, not able to follow commands
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD
   Lungs: CTAB - anteriorly
   CV: RRR, no murmurs
   Abdomen:  soft, NT/ND, + bs
   GU: Foley in place, draining yellow urine
   Ext: warm, well-perfused, no edema, 2+ dp pulses
   Labs / Radiology
   341 K/uL
   9.7 g/dL
   93 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   28.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2110-4-7**]  05:51 AM
                             [**2110-4-7**]  06:21 AM
                             [**2110-4-7**]  10:18 AM
                             [**2110-4-7**]  12:19 PM
                             [**2110-4-7**]  02:30 PM
                             [**2110-4-7**]  06:20 PM
                             [**2110-4-7**]  06:39 PM
                             [**2110-4-8**]  03:01 AM
                             [**2110-4-8**]  03:27 AM
                             [**2110-4-8**]  05:35 AM
   WBC
   5.1
   8.5
   Hct
   29.5
   28.2
   28.9
   Plt
   290
   341
   Cr
   0.9
   TCO2
   30
   29
   30
   29
   30
   29
   27
   Glucose
   93
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:74.6 %,
   Band:6.0 %, Lymph:17.9 %, Mono:3.3 %, Eos:4.0 %, Lactic Acid:0.8
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Imaging: CXR (my read): no significant interval change.
   Microbiology: [**4-7**]: GRAM STAIN (Final [**2110-4-7**]):
    [**11-10**] PMNs      NO MICROORGANISMS
   Flu negative.
   Blood cultures since [**4-1**]: NGTD.
   Assessment and Plan
   20yo F with no PMHx admitted with CAP after failing outpatient
   treatment now transferred to the [**Hospital Unit Name 10**] with increasing O2 requirement
   and rapidly progressive multifocal PNA on CT scan, now intubated since
   [**4-5**].
   # Respiratory Failure/ARDS: Pleural effusions remain, but as she
   required fluid boluses for hypotension in the past few days, not able
   to diurese further.  Concern existed for parapneumonic effusions
   contributing to hypoxia and/or fever that would not resolve with Lasix
   and might benefit from IP guided thoracentesis. IP saw the patient
   yesterday and felt that there were no effusions that were safe to tap
   given that they were small, loculated, and located in difficult to
   access locations. [**Known firstname 538**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 523**] settings now weaned to 40% FiO2. Most
   recent ABG 7.43 /40 /118.
   - paralytics discontinued.
   - Continue chest PT, Tylenol PRN
   - Repeat ABG this AM.
   - Daily CXR
   # Multifocal PNA:  On Vanc/Ceftraixone/Azithromycin, persistently low
   grade temps with spike this AM to 102; ID following and recommend
   continuing current antibiotics. WBC 8.3, slight bump from 5.3
   yesterday. Endotracheal sputum culture from [**4-6**] and [**4-7**] gram stain
   negative, cultures pending. Numerous blood cultures since [**4-1**] NGTD.
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 5
   - F/u blood cultures
   - f/u ID recs
   .
   # Anemia: Hct stable at 28.5 today (29 yesterday; BL 38).
   -          hemolysis labs sent for new anemia negative, but retic count
   low at 0.6 likely [**2-18**] infection
   -          LFT's: ALT: 33 AP: 34 Tbili: 0.2 Alb: 2.5 AST: 64 LDH: 457;
   no e/o liver contribution to low HCT.
   # Hypokalemia, hypomagnesemia: Replete PRN
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2110-4-8**] 01:00 AM 10 mL/hour
   Glycemic Control:  None
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   20 Gauge - [**2110-4-5**] 09:00 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-7**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient
   Code status: Full code
   Disposition: ICU for now

2110-04-08 12:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Pneumonia
   ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2110-4-7**] 08:30 AM
 ARTERIAL LINE - START [**2110-4-7**] 08:30 AM
 SPUTUM CULTURE - At [**2110-4-7**] 05:15 PM
 FEVER - 102.2
F - [**2110-4-7**] 08:00 AM
   -Paralytics discontinued
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Aztreonam - [**2110-4-6**] 06:21 AM
   Azithromycin - [**2110-4-8**] 05:30 AM
   Vancomycin - [**2110-4-8**] 08:37 AM
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-8**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2110-4-8**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (100.9
   HR: 83 (74 - 90) bpm
   BP: 135/70(90) {101/43(60) - 139/70(90)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.9 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,434 mL
                                                                  1,249 mL
   PO:
             TF:
                                                                     60 mL
                                                                    141 mL
   IVF:
                                                                  2,254 mL
                                                                    988 mL
   Blood products:
   Total out:
                                                                  1,123 mL
                                                                    850 mL
   Urine:
                                                                  1,123 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,311 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 29 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/42/104/26/2
   Ve: 7.4 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
Patient responds to questions with appropriate response at
   this time.
   Labs / Radiology
   9.7 g/dL
   341 K/uL
   93 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   28.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2110-4-7**]  06:21 AM
                             [**2110-4-7**]  10:18 AM
                             [**2110-4-7**]  12:19 PM
                             [**2110-4-7**]  02:30 PM
                             [**2110-4-7**]  06:20 PM
                             [**2110-4-7**]  06:39 PM
                             [**2110-4-8**]  03:01 AM
                             [**2110-4-8**]  03:27 AM
                             [**2110-4-8**]  05:35 AM
                             [**2110-4-8**]  10:49 AM
   WBC
   8.5
   Hct
   28.2
   28.9
   Plt
   341
   Cr
   0.9
   TCO2
   30
   29
   30
   29
   30
   29
   27
   28
   Glucose
   93
   Other labs: PT / PTT / INR:14.7/28.8/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Band:0, Lactic Acid:0.8 mmol/L,
   Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR-Patient with multifocal
   Microbiology: Sputum from [**4-7**]--[**11-10**] PMN's
   Flu negative
   Blood Cultures--no growth to date
   Assessment and Plan
   20 yo female admitted with severe multi-focal pneumonia with
   progression to hypoxemic respiratory failure and now with some improved
   response to PEEP titration and will continue to work to wean FIO2 and
   PEEP as tolerated while maintaining coverage for community acquired
   pneumonia.
   1)Respiratory Failure--Acute-
   -Fentanyl 300ug/hr/Versed 5mg/hr
   -A/C to continue and will wean PEEP to 14 and follow PaO2 across time
   -Will look to maintain negative fluid balance today at goal 1 liter
   negative
   -Will move to diuresis as urine output starts to improve.
   2)Pneumonia-
   -CTX/Azithro/Vanco
   -Pressors off at this time
   -Will continue to maintain tylenol and follow culture results
   -Will have to explore alternative sources of fever is persistent
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-8**] 01:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   20 Gauge - [**2110-4-5**] 09:00 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-7**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Family present on rounds
plan discussed in
   their presence and all questions answered.
   Code status: Full code
   Disposition : ICU
   Total time spent: 45 minutes

2110-04-09 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PEEP weaned from 16 to 12. FiO2 remains at 40%
   - ID: no change in therapy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Vancomycin - [**2110-4-9**] 12:00 AM
   Azithromycin - [**2110-4-9**] 05:32 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 275 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-9**] 12:00 AM
   Fentanyl - [**2110-4-9**] 12:00 AM
   Midazolam (Versed) - [**2110-4-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-9**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.4
   HR: 98 (81 - 105) bpm
   BP: 117/47(66) {108/47(66) - 154/70(92)} mmHg
   RR: 20 (20 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,993 mL
                                                                    952 mL
   PO:
             TF:
                                                                    569 mL
                                                                    296 mL
   IVF:
                                                                  1,244 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    400 mL
   Urine:
                                                                  1,710 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    283 mL
                                                                    552 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.44/45/95.[**Numeric Identifier **]/29/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: Intubated, sedated, opens eyes, able to follow commands
   HEENT: Sclera anicteric, PERRL, MMM
   Neck: supple, no LAD
   Lungs: CTAB - anteriorly
   CV: RRR, no murmurs
   Abdomen:  soft, NT/ND, + bs
   GU: Foley in place, draining yellow urine
   Ext: warm, well-perfused, no edema, 2+ dp pulses
   Labs / Radiology
   405 K/uL
   9.2 g/dL
   101 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   137 mEq/L
   27.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2110-4-7**]  06:39 PM
                             [**2110-4-8**]  03:01 AM
                             [**2110-4-8**]  03:27 AM
                             [**2110-4-8**]  05:35 AM
                             [**2110-4-8**]  10:49 AM
                             [**2110-4-8**]  01:52 PM
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
   WBC
   8.5
   9.1
   Hct
   28.9
   27.7
   Plt
   341
   405
   Cr
   0.9
   0.7
   TCO2
   30
   29
   27
   28
   29
   29
   30
   32
   Glucose
   93
   101
   Other labs: PT / PTT / INR:15.3/28.5/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:77.9 %,
   Band:6.0 %, Lymph:15.4 %, Mono:3.7 %, Eos:2.6 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Imaging: CXR: rotation vs. increased fluffy white infiltrates in LUL.
   Microbiology: Blood cultures NGTD since [**4-1**].
   Sputum cultures 3/22, [**4-8**], no organisms.
   Assessment and Plan
   20yo F with no PMHx admitted with CAP after failing outpatient
   treatment now transferred to the [**Hospital Unit Name 10**] with increasing O2 requirement
   and rapidly progressive multifocal PNA on CT scan, now intubated since
   [**4-5**].
   # Respiratory Failure: Secondary to PNA and fluid overload. Improving.
   [**Known firstname 538**]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) 523**] settings now weaned to 40% FiO2 and PEEP of 12.
   Esophageal tube removed yesterday.  Most recent ABG 7.44 /45 /95.  CXR
   this AM ?L sided pulmonary infiltrates (my read) vs.
   exposure/rotational difference.  She may benefit from gentle diuresis
   today.
   - Continue chest PT, Tylenol PRN
   - Repeat ABG this AM.
   - Daily CXR
   - If she does well today with continued decrease in PEEP, consider slow
   wean off sedation over next few days and SBTs.
   # Multifocal PNA:  On Vanc/Ceftraixone/Azithromycin, persistently low
   grade temps; ID following and recommend continuing current antibiotics.
   WBC 9.1, slight bump from 8.3  yesterday., but still no bandemia.
   Endotracheal sputum all gram stain negative to date, blood cultures
   pending but NG since [**4-1**].
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 6.
   - F/u blood cultures.
   - f/u ID recs.
   .
   # Anemia: Hct fairly stable at 27.7 today (28.5 yesterday; BL 38).
   -          hemolysis labs sent for new anemia negative, but retic count
   low at 0.6 likely [**2-18**] infection
   # Hypokalemia, hypomagnesemia: Replete PRN
   ICU Care
   Nutrition: Pulmonary (Full) - [**2110-4-8**] 10:14 PM 40 mL/hour
   Glycemic Control:  None
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   20 Gauge - [**2110-4-5**] 09:00 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-7**] 08:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient
   Code status: Full code
   Disposition: ICU for now

2110-04-09 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   ARDS
   Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2110-4-8**] 11:00 AM
 FEVER - 101.5
F - [**2110-4-8**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Azithromycin - [**2110-4-9**] 05:32 AM
   Vancomycin - [**2110-4-9**] 08:15 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 275 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2110-4-9**] 12:00 AM
   Fentanyl - [**2110-4-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-9**] 08:15 AM
   Pantoprazole (Protonix) - [**2110-4-9**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2110-4-9**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.4
   HR: 98 (85 - 105) bpm
   BP: 127/60(80) {111/47(66) - 154/70(92)} mmHg
   RR: 20 (20 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,993 mL
                                                                  1,342 mL
   PO:
             TF:
                                                                    569 mL
                                                                    422 mL
   IVF:
                                                                  1,244 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    730 mL
   Urine:
                                                                  1,710 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    283 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/45/95.[**Numeric Identifier **]/29/5
   Ve: 8.3 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   405 K/uL
   101 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   10 mg/dL
   101 mEq/L
   137 mEq/L
   27.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2110-4-7**]  06:39 PM
                             [**2110-4-8**]  03:01 AM
                             [**2110-4-8**]  03:27 AM
                             [**2110-4-8**]  05:35 AM
                             [**2110-4-8**]  10:49 AM
                             [**2110-4-8**]  01:52 PM
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
   WBC
   8.5
   9.1
   Hct
   28.9
   27.7
   Plt
   341
   405
   Cr
   0.9
   0.7
   TCO2
   30
   29
   27
   28
   29
   29
   30
   32
   Glucose
   93
   101
   Other labs: PT / PTT / INR:15.3/28.5/1.3, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:77.9 %,
   Band:6.0 %, Lymph:15.4 %, Mono:3.7 %, Eos:2.6 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   20 yo female admitted with multi-lobar pneumonia and with evolution of
   ARDS and now with slow improvement in oxygenation and ventilation
   across time with patient able to tolerate PEEP wean at this time.
   1)Respiratory Failure
This was attributable to multi-lobar pneumonia
   with evolution of ARDS now with improvement.
   -Will wean PEEP today
   -Will move to PSV if able to wean PEEP to <10
   -We do have continued fevers without evidence of severe insult with
   minimal evidence of systemic inflammatory response and sepsis all
   showing possible improvement
   -We do have concern for possible source of infection with pleural space
   2)FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)-
   -Patient with concern for medication related fever, but that is a
   diagnosis of exclusion
   -We have concern for possible thoracic source and will look with CT
   -Will look for acalculous cholecystitis
   -Will look for DVT with
   -Will follow up urine culture
   -C. Diff negative to date
   3) PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)-
   -Continue with Vanco/CTX/Azithro
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-8**] 10:14 PM 45 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2110-4-4**] 09:38 AM
   18 Gauge - [**2110-4-6**] 01:45 AM
   Arterial Line - [**2110-4-7**] 08:30 AM
   20 Gauge - [**2110-4-8**] 11:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2110-04-10 07:17:00 Physician Resident Progress Note
Chief Complaint: multifocal pneumonia
   24 Hour Events:
   - weaned PEEP to 8: 7.48/39/80
   - CT chest w&w/out:  (wet read) Progression and somewhat different
   pattern of multifocal pneumonia. Increased bilateral small pleural
   effusions. Significant atelectasis bilaterally, continued LLL collapse
   and severe subsegmental atelectasis of right lower lobe. Small amount
   of pelvic free fluid without other acute finding in abdomen/pelvis.
   - ID recommended D/C'ing Vancomycin today for ?drug fever
   - LENI's: normal flow. No DVT.
   - started on Fluconazole 200mg q24H for oral thrush
   - Father concerned that patient's tongue is swollen; unclear etiology &
   may warrant ENT consult prior to extubation; changed tape to other side
   of lip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Vancomycin - [**2110-4-10**] 12:00 AM
   Azithromycin - [**2110-4-10**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-4-9**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-10**] 12:00 AM
   Fentanyl - [**2110-4-10**] 05:00 AM
   Midazolam (Versed) - [**2110-4-10**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-10**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.8
   HR: 78 (58 - 130) bpm
   BP: 107/44(59) {105/39(54) - 119/52(67)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,818 mL
                                                                    913 mL
   PO:
             TF:
                                                                    800 mL
                                                                    321 mL
   IVF:
                                                                  1,338 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    425 mL
   Urine:
                                                                  2,855 mL
                                                                    400 mL
   NG:
                                                                    210 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 408
   PIP: 24 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: 7.48/39/80.[**Numeric Identifier 500**]/28/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Labs / Radiology
   459 K/uL
   9.2 g/dL
   116 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2110-4-8**]  05:35 AM
                             [**2110-4-8**]  10:49 AM
                             [**2110-4-8**]  01:52 PM
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
                             [**2110-4-9**]  12:50 PM
                             [**2110-4-9**]  04:45 PM
                             [**2110-4-10**]  03:42 AM
   WBC
   9.1
   11.4
   Hct
   27.7
   26.7
   Plt
   405
   459
   Cr
   0.7
   0.7
   TCO2
   27
   28
   29
   29
   30
   32
   25
   30
   Glucose
   101
   116
   Other labs: PT / PTT / INR:14.1/29.6/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:77.9 %,
   Band:6.0 %, Lymph:15.4 %, Mono:3.7 %, Eos:2.6 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.5 mg/dL
   Imaging: [**4-10**] CT TORSO WET READ: Progression and somewhat different
   pattern of multifocal pneumonia. Bilateral small pleural effusions are
   increased. Significant atelectasis, segmental on left with improved
   lingula aeration but continued LLL collapse. Worse atelectasis on
   right, with segmental right lower lobe bronchi patent but severe
   subsegmental atelectasis of right lower lobe. Small amount of pelvic
   free fluid without other acute finding in abdomen/pelvis.
   Microbiology: Blood cx [**4-3**]: negative
   Blood cx [**Date range (1) 11604**]: pending
   Urine cx [**4-8**]: negative
   Respiratory cx [**4-8**]: pending, negative gram stain
   Assessment and Plan
   20 yo F with no PMHx admitted with community acquired multifocal
   pneumonia after failing outpatient treatment now intubated since [**4-5**].
   # Respiratory Failure:  Improving, requiring less pressure support,
   currently at 13/8, FiO2 40%. 7.48/39/80. CT torso without
   abdominopelvic pathology, but chest demonstrates evolution of
   pneumonia, improvement in left lingula, but continued LLL and
   progression of atelectasis in RLL. RSBI obtained this AM 408.
   - F/u final read of chest CT
   - Continue chest PT, Tylenol PRN
   - Repeat ABG this AM
   - Daily CXR
   - Continue to wean PEEP as tolerates
   # Multifocal PNA:  On Vanc/Ceftriaxone/Azithromycin, persistently low
   grade temperatures & new leukocytosis today, but overall trend suggests
   improvement in fever & WBC without bands. CT results as above suggest
   some improvement, but significant continued infection and parenchymal
   involvement as well as some increasing, but still small pleural
   effusions. ID suggested discontinuing Vancomycin out of concern for
   drug fever, but all endotracheal sputum cultures & blood cultures are
   negative to date.
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 7
   - f/u blood cultures
   - f/u ID recs
   - f/u IP recs
   # Anemia: Hct fairly stable at 26.7 today, but admission Hct 37.1.
   Hemolysis labs negative & reticulocyte count obtained on [**4-7**] (0.6)
   demonstrates inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse Hgb [**7-25**]
   # Angioedema: Patient with new tongue & lip swelling swelling noted
   yesterday. No fluctuance or submandibular LAD this AM.   [**Month (only) 11**] have some
   component of inflammation from endotracheal tube, but more likely drug
   reaction after starting Fluconazole yesterday for thrush.
   - Hold Fluconazole for now
   - Hold Ibuprofen
   - Consider steroids
   - Miconazole TP [**Hospital1 **] for rash
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-10**] 02:48 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-8**] 11:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient
s family
   Code status: Full code
   Disposition: ICU

2110-04-10 11:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2110-4-9**] 11:13 AM
 ARTERIAL LINE - STOP [**2110-4-9**] 11:00 PM
 FEVER - 101.4
F - [**2110-4-9**] 10:00 PM
   Fulconazole started for thrush
   CT Scan completed
   LENI-negative
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Vancomycin - [**2110-4-9**] 04:18 PM
   Azithromycin - [**2110-4-10**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 300 mcg/hour
   Other ICU medications:
   Fentanyl - [**2110-4-10**] 05:00 AM
   Midazolam (Versed) - [**2110-4-10**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-10**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2110-4-10**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.8
C (100
   HR: 83 (58 - 130) bpm
   BP: 124/70(83) {105/39(54) - 124/70(83)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,818 mL
                                                                    970 mL
   PO:
             TF:
                                                                    800 mL
                                                                    498 mL
   IVF:
                                                                  1,339 mL
                                                                    472 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    805 mL
   Urine:
                                                                  2,855 mL
                                                                    780 mL
   NG:
                                                                    210 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 408
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: 7.48/39/80.[**Numeric Identifier 500**]/28/5
   Ve: 7.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   459 K/uL
   116 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   9 mg/dL
   101 mEq/L
   139 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2110-4-8**]  05:35 AM
                             [**2110-4-8**]  10:49 AM
                             [**2110-4-8**]  01:52 PM
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
                             [**2110-4-9**]  12:50 PM
                             [**2110-4-9**]  04:45 PM
                             [**2110-4-10**]  03:42 AM
   WBC
   9.1
   11.4
   Hct
   27.7
   26.7
   Plt
   405
   459
   Cr
   0.7
   0.7
   TCO2
   27
   28
   29
   29
   30
   32
   25
   30
   Glucose
   101
   116
   Other labs: PT / PTT / INR:14.1/29.6/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:82.1 %,
   Band:6.0 %, Lymph:11.0 %, Mono:4.4 %, Eos:2.0 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.5 mg/dL
   Imaging: CT Scan--patient with fluid diffusely--with fluid into major
   fissure
do not see new evidence of focal abscess or collection that is
   explanation for persistent fevers
   CXR
   Assessment and Plan
   20 yo female with initial admission with multi-lobar pneumonia and with
   ARDS and now with improvement in hypoxemic respiratory failure.  She
   now has continued improvement with weaning of PEEP and maintenance of
   significant improvement in oxygenation.
   1)Respiratory Failure-Patient with improved oxygenation at this time
   and able to tolerate left side down.  We have current barriers to
   exbuation of
   A-Pneumonia-we have improved WBC oxygenation at this time
we will
   continue with current antibiotics with Vanco/CTX/Azithromycin
would
   move to consider change in antibiotics if we have persistece of
   angioedema off of ibuprofen.  Will have to discuss with ID service.
   B-Pleural effusion-we have evidence of effusion persisting and with
   mild increase in size
will look with ultrasound for presence of fluid
   amenable to tap.
   C-Angioedema
this is with minimal cuff leak at this time and offending
   [**Doctor Last Name 23**] it not clear at this time
will discontinue ibuprofen at this
   time.  Will move to steroid (Decadron 4q 6 hours) Rx at this time and
   Benadryl at this time
would look to 24 hour trial prior to extubation.
   D-Altered Mental Status
we have good level of sedation at this time.
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -vanco/CTX/Azithro to continue
   -Will need to determine course with ID consultants
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-10**] 02:48 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-8**] 11:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2110-04-11 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2110-4-10**] 08:02 PM
 FEVER - 103.1
F - [**2110-4-10**] 12:00 PM
   - gave Methylprednisolone 20mg IV x 1 for edema
   - Continue Vanc per ID, but d/c Azithro
   - nystatin powder & S&S started
   - A-line attempted x many times, anesthesia called about placing line
   - Dr [**Last Name (STitle) 11631**] - wonder if there is mucus plugging in lower airway, ?
   BAL in this case, abx ? if should keep azithro, and d/c either vanc vs.
   ceftra.
   - I/O = -1L at 6pm, giving additional lasix 10mg x1 at 20:30.
   - got an ART line
   - became agitated on 100 propofol, had to increase versed to 4,
   fentanyl to 200, then was able to triate down propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Vancomycin - [**2110-4-11**] 12:00 AM
   Azithromycin - [**2110-4-11**] 05:47 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Propofol - [**2110-4-10**] 03:30 PM
   Fentanyl - [**2110-4-10**] 04:22 PM
   Heparin Sodium (Prophylaxis) - [**2110-4-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-11**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.3
C (97.3
   HR: 70 (66 - 117) bpm
   BP: 140/77(98) {127/64(84) - 161/95(117)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,986 mL
                                                                  1,003 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    297 mL
   IVF:
                                                                    854 mL
                                                                    706 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  1,710 mL
   Urine:
                                                                  4,040 mL
                                                                  1,710 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,079 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 408
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/41/71/29/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GENERAL: sedated, resting
   HEENT: angio-edema of the tongue, rash on face, intubated unable to
   assess eye movement
   CVS: RRR, nl s1, s2, no m/r/g
   PULM: CTAB, intubated, no wheezing rales rhonchi
   ABD: somewhat distended, tympanetic on percussion, no BS, no
   splenomegaly/hepatomegaly.
   EXT: b/l IV placed, no C/C/E.
   Labs / Radiology
   574 K/uL
   9.7 g/dL
   124 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   11 mg/dL
   100 mEq/L
   138 mEq/L
   28.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
                             [**2110-4-9**]  12:50 PM
                             [**2110-4-9**]  04:45 PM
                             [**2110-4-10**]  03:42 AM
                             [**2110-4-10**]  08:36 PM
                             [**2110-4-11**]  04:11 AM
                             [**2110-4-11**]  04:29 AM
   WBC
   9.1
   11.4
   11.8
   Hct
   27.7
   26.7
   28.8
   Plt
   [**Telephone/Fax (3) 11632**]
   Cr
   0.7
   0.7
   0.6
   TCO2
   29
   30
   32
   25
   30
   31
   31
   Glucose
   101
   116
   124
   Other labs: PT / PTT / INR:13.7/27.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:88.6 %,
   Band:6.0 %, Lymph:7.9 %, Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.0
   mg/dL
   CT final read still pending from [**2110-4-9**].
   Assessment and Plan
   20 yo F with no PMHx admitted with community acquired multifocal
   pneumonia after failing outpatient treatment now intubated since [**4-5**].
   # Respiratory Failure:  currently at AC 400x20, 50%, 10, 7.47/41/71. CT
   torso without abdominopelvic pathology.  Chest X-ray appears to be
   improved with better recruitment of the right lung.  (calculated
   PaO2/FiO2 = 152, compliance Vt/Plat-PEEP = 28) all suggest ARDS.
   - F/u final read of chest CT
   - Continue chest PT, Tylenol PRN, Daily CXR
   - Continue to wean PEEP as tolerates
   - bronchscopy today, touch base with IP regarding tap
   - agitation: bolus fentanyl and versed, zyprexa 5mg PO Q8 likely will
   need standing dosaging.
   # Multifocal PNA:  On Vanc/Ceftriaxone/Azithromycin, persistently low
   grade temperatures & new leukocytosis today, but overall trend suggests
   improvement in fever & WBC without bands. CT results as above suggest
   some improvement, but significant continued infection and parenchymal
   involvement as well as some increasing, but still small pleural
   effusions. ID suggested discontinuing Vancomycin out of concern for
   drug fever, but all endotracheal sputum cultures & blood cultures are
   negative to date.
   - Continue Vancomycin/Ceftriaxone/Azithromycin, day 8
   - f/u blood cultures, C. diff
   - f/u ID recs
 regarding dosaging of antibiotics (need consensus)
   - f/u IP recs
 regarding possible tapping of the left pleural effusion
   if possible
   # Angioedema: Patient with new tongue & lip swelling swelling noted on
   [**4-9**]. No fluctuance or submandibular LAD this AM.   [**Month (only) 11**] have some
   component of inflammation from endotracheal tube, but more likely drug
   reaction after starting Fluconazole on [**4-9**] for thrush.
   - Hold fuconazole, Ibuprofen
   - review medications regarding angioedema side effects
   - received steroids, repeat steroid on [**4-11**]
   - Miconazole TP [**Hospital1 **] for rash
   # Anemia: Hct fairly stable at 26.7 today, but admission Hct 37.1.
   Hemolysis labs negative & reticulocyte count obtained on [**4-7**] (0.6)
   demonstrates inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse Hgb [**7-25**]
   # PPX: need restart bowel regimen, monitor stool output
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-11**] 12:34 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-10**] 03:43 PM
   Arterial Line - [**2110-4-10**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-04-11 09:22:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Respiratory Failure
   ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2110-4-10**] 08:02 PM
 FEVER - 103.1
F - [**2110-4-10**] 12:00 PM
   -Methylprednisolone trialed for angioedema
   -Antibiotics continued
   -Fever recurrent yesterday but not overnight--and no Tylenol given
   -Arterial catheter placed
   -Patient with increased sedation required overnight with Propofol
   increased--PEEP increase to 10, FIO2 increase to 50%
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-8**] 10:45 AM
   Azithromycin - [**2110-4-11**] 05:47 AM
   Vancomycin - [**2110-4-11**] 07:50 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2110-4-10**] 03:30 PM
   Fentanyl - [**2110-4-10**] 04:22 PM
   Heparin Sodium (Prophylaxis) - [**2110-4-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2110-4-11**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.3
C (97.4
   HR: 78 (66 - 117) bpm
   BP: 126/68(88) {126/64(84) - 161/95(117)} mmHg
   RR: 20 (19 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,987 mL
                                                                  1,553 mL
   PO:
             TF:
                                                                  1,092 mL
                                                                    402 mL
   IVF:
                                                                    855 mL
                                                                  1,150 mL
   Blood products:
   Total out:
                                                                  4,065 mL
                                                                  1,970 mL
   Urine:
                                                                  4,040 mL
                                                                  1,970 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,078 mL
                                                                   -417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/41/71/29/5
   Ve: 7.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Head, Ears, Nose, Throat: Angioedema persistent
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   574 K/uL
   124 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.4 mEq/L
   11 mg/dL
   100 mEq/L
   138 mEq/L
   28.8 %
   11.8 K/uL
        [image002.jpg]
                             [**2110-4-8**]  05:05 PM
                             [**2110-4-8**]  08:30 PM
                             [**2110-4-9**]  04:29 AM
                             [**2110-4-9**]  05:25 AM
                             [**2110-4-9**]  12:50 PM
                             [**2110-4-9**]  04:45 PM
                             [**2110-4-10**]  03:42 AM
                             [**2110-4-10**]  08:36 PM
                             [**2110-4-11**]  04:11 AM
                             [**2110-4-11**]  04:29 AM
   WBC
   9.1
   11.4
   11.8
   Hct
   27.7
   26.7
   28.8
   Plt
   [**Telephone/Fax (3) 11632**]
   Cr
   0.7
   0.7
   0.6
   TCO2
   29
   30
   32
   25
   30
   31
   31
   Glucose
   101
   116
   124
   Other labs: PT / PTT / INR:13.7/27.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:88.6 %,
   Band:6.0 %, Lymph:7.9 %, Mono:2.8 %, Eos:0.5 %, Lactic Acid:0.7 mmol/L,
   Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.0
   mg/dL
   Imaging: CXR-
   Assessment and Plan
   20 yo female with initial admission with multi-lobar pneumonia without
   pathogen grown but substantial suspicion for strep species and less
   likely staph in the setting of culture negative illness.  We have had
   some improvement in the diffuse lung injury picture and have been able
   to wean PEEP substantially but remain with substantial compromise in
   oxygenation and lung compliance with multi-lobar collapse and moderate
   pleural effusion.  The pleural effusion has been of concern for
   possible source of ongoing fever but is not suspected as source of
   mechanical restriction.  We do have real concern for the multi-lobar
   persistent collapse to be significantly restricting lung compliance.
   1)RESPIRATORY FAILURE-Patient with persistent plateau at 24 with need
   for continued support with poor compliance
we do have mild improvement
   in right lung opacities and we have left sided with persistent collapse
   and effusion which does appear to be mobile with change in positioning
   - Bronchoscopy to evaluate for any possible distal mucus plugging that
   may be contributing to poor compliance
   - Angioedema
we have steroid Rx in place and discontinued ibuprofen and
   have local thrush
Nystatin given, steroid Rx for 48 hours and will need
   to consider medication
   - Mental Status-patient with sedation in place
and will wean Versed as
   possible and trial a small amount of Zyprexa to look to wean and go to
   bolus dosing.
   -Goal negative 1-2 liters today
   2) PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -Vanco/CTX/Azithro
   -Fevers continuing and will move to consult with IP as to possible tap
   -We have continued blood and urine culture which have been
   negative
bronch sample today
   -Continue with supportive care as above
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2110-4-11**] 12:34 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-10**] 03:43 PM
   Arterial Line - [**2110-4-10**] 08:02 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2110-04-12 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - bradycardic in 50s, EKG showed sinus brady
 PICC LINE - START [**2110-4-11**] 02:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-11**] 11:16 AM
   Vancomycin - [**2110-4-12**] 12:00 AM
   Azithromycin - [**2110-4-12**] 05:54 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-4-11**] 08:05 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-12**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2110-4-12**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.3
   HR: 57 (51 - 82) bpm
   BP: 129/67(91) {124/62(84) - 158/82(107)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 61.7 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,371 mL
                                                                  1,143 mL
   PO:
             TF:
                                                                    989 mL
                                                                    343 mL
   IVF:
                                                                  2,242 mL
                                                                    800 mL
   Blood products:
   Total out:
                                                                  5,340 mL
                                                                    550 mL
   Urine:
                                                                  5,340 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,969 mL
                                                                    593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.45/45/132/29/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General: Intubated, sedated, opens eyes, able to follow commands
   HEENT: Sclera anicteric, PERRL, MMM, swollen tongue (stable)
   Neck: supple, no LAD
   Lungs: CTAB - anteriorly
   CV: RRR, no murmurs
   Abdomen:  soft, NT/ND, + bs
   GU: Foley in place, draining yellow urine
   Ext: warm, well-perfused, no edema, 2+ dp pulses
   Labs / Radiology
   572 K/uL
   8.8 g/dL
   114 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   26.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2110-4-9**]  12:50 PM
                             [**2110-4-9**]  04:45 PM
                             [**2110-4-10**]  03:42 AM
                             [**2110-4-10**]  08:36 PM
                             [**2110-4-11**]  04:11 AM
                             [**2110-4-11**]  04:29 AM
                             [**2110-4-11**]  02:08 PM
                             [**2110-4-11**]  03:15 PM
                             [**2110-4-12**]  04:08 AM
                             [**2110-4-12**]  04:25 AM
   WBC
   11.4
   11.8
   11.8
   Hct
   26.7
   28.8
   26.5
   Plt
   459
   574
   572
   Cr
   0.7
   0.6
   0.5
   0.5
   TCO2
   25
   30
   31
   31
   32
   32
   Glucose
   116
   124
   120
   114
   Other labs: PT / PTT / INR:12.8/24.3/1.1, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:84.1 %,
   Band:6.0 %, Lymph:10.6 %, Mono:4.9 %, Eos:0.3 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.2 mg/dL
   Imaging:
   CXR (my read): no significant interval change.
   CT Chest/Abd [**4-12**]: 1. increase in patchy and GGOs, extending into
   portions of previously spared lung. Increasing bilateral pleural
   effusions. 2. Bilateral consolidative opacities at the lung bases,
   slightly improved at the left lung base. 3. No abnormality identified
   within the abdomen or pelvis
   Microbiology: Sputum: no microorganisms.
   BAL specimens?-->f/u
   Urine and blood cultures NGTD.
   Assessment and Plan
   20 yo F with no PMHx admitted with community acquired multifocal
   pneumonia after failing outpatient treatment now intubated since [**4-5**].
   # Respiratory Failure:  currently at AC 400x18, 50%, 10, 7.45/ 45/ 132.
   CT torso without abdominopelvic pathology.  Chest X-ray stable.
   - Continue chest PT, Tylenol PRN, Daily CXR
   - IP reassessed, nothing to tap
   - Continue to wean PEEP as tolerates
   - bronchscopy yesterday, f/u specimens
   - agitation secondary to versed weaning; started zyprexa 5mg PO q 8hrs
   # Multifocal PNA:  On Vanc/Azithromycin (Ceftriaxone d/cd on [**4-11**]),
   persistently low grade temperatures & leukocytosis, but overall trend
   suggests improvement in fever & WBC without bands. CT results suggest
   some improvement, but significant continued infection and parenchymal
   involvement as well as some increasing, but still small pleural
   effusions. ID suggested discontinuing Vancomycin out of concern for
   drug fever, but all endotracheal sputum cultures & blood cultures are
   negative to date.
   - Continue Vancomycin/Azithromycin, day 9
   - f/u blood cultures
   - f/u ID recs
  stopped ceftraixone per ID because this is the
   antibiotic that is most likely to cause  fever
   # Bradycardia: pt had episode of bradycardia overnight to the 50s. Was
   HD stable. EKG showed sinus brady.  Unclear etiology, no meds to
   suggest med effect. Occurred in setting of her sleeping.  Will continue
   to monitor.
   # Angioedema: Patient with new tongue & lip swelling swelling noted on
   [**4-9**]. No fluctuance or submandibular LAD this AM.   [**Month (only) 11**] have some
   component of inflammation from endotracheal tube, but more likely drug
   reaction after starting Fluconazole on [**4-9**] for thrush.
   - consulted allergy re: tongue swelling, C4 level added on (normal at
   40). Recs: solumedrol 40-60mg q8 x 24-48 hours, diphenhydramine 50mg q6
   x 24-48 hrs, send IgG, IgA, IgM, SPEP, CH50.
   - Now medications associated with angioedema side effects, per allergy
   review.
   - Received Methylprednisolone 20mg IV x 1 for angioedema and
   hydrocortisone 100mg IV.
   - soft collar placed to try to keep neck extended, Dr. [**Known lastname 11556**] found
   case report of et tube blocking venous flow in tongue, neck extension
   helped.
   # Anemia: Hct fairly stable at 26.5 today, but admission Hct 37.1.
   Hemolysis labs negative & reticulocyte count obtained on [**4-7**] (0.6)
   demonstrates inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse HCT<21
   # Fungal infection: Miconazole powder TP.
   # PPX: restarted bowel regimen, monitor stool output
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2110-4-11**] 12:34 AM 45 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-10**] 03:43 PM
   Arterial Line - [**2110-4-10**] 08:02 PM
   Left PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:
   DVT:  Hep SC
   Stress ulcer:  PPI
   Code status: Full code
   Disposition: ICU for now.
   ------ Protected Section ------
   MICU ATTEBNDING ADDENDUM:
   I have seen and examined the patient in the presence of the family and
   concur with Dr [**Last Name (STitle) 11429**]
 note above.
   [**Known firstname 538**] is slowly better with stable FiO2 needs although she remains on
   PEEP of 10 cms. Her tongue swelling is improved and she has received 1
   day of steroids. She is alert and responsive on decreasing propafol
   infusion. A bedside bronchosocpy reveals minimal airway secretions and
   adequate cuff leak around ETT. Inspection of the upper airway (
   bronchoscope inserted through Rt nostril) does not reveal worrisome
   edema. Her father, an ENT physician himself, was present during the
   procedure.
   We will continue slow PEEP wean and stop tube feeding this afternoon
   and assess her ability to extubate if the tongue swelling is indeed
   improved further. Otherwise will plan for extubation in am [**4-13**]
   provided there is no hemodynamic setback. She has a free layering
   effusion on the left and would only tap if she is persistently febrile
   and unable to ventilate once extubated.  Continue steroids for another
   24 hours.
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], M.D. ( Pulmonary, Critical Care and Sleep Medicine)
   CC time: 60 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2110-4-12**] 12:59 PM ------

2110-04-13 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - given tongue swelling, evaluated airway by bronchoscopy and appeared
   patent. +cuff [**Last Name (LF) 1199**], [**First Name3 (LF) **] plan is to wean down PEEP on PSV and attempt
   extubation.  Tongue swelling much improved on steroids.
   - at 430 PM, pt yawned then began gagging, became increasingly
   agitated, tachypneic and tachycardic. Bil breath sounds present,
   nothing to suction from ETT, CXR done wnl with ETT placement wnl.
   Written for prn po ativan as well as zyprexa as pt has had a good deal
   of anxiety periextubation.
   -pt had an episode of vomiting during tube feeds at 630 pm, given
   zofran, tachycardic to 150s from anxiety.
   - pt well sedated overnight to prevent periextubation anxiety and
   restlessness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-11**] 11:16 AM
   Vancomycin - [**2110-4-13**] 12:21 AM
   Azithromycin - [**2110-4-13**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Propofol - 75 mcg/Kg/min
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2110-4-12**] 04:19 PM
   Midazolam (Versed) - [**2110-4-12**] 04:20 PM
   Propofol - [**2110-4-12**] 05:37 PM
   Heparin Sodium (Prophylaxis) - [**2110-4-13**] 12:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-13**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.8
C (98.3
   HR: 52 (47 - 149) bpm
   BP: 122/61(85) {117/54(75) - 171/96(123)} mmHg
   RR: 18 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 59.4 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,087 mL
                                                                    861 mL
   PO:
             TF:
                                                                    782 mL
   IVF:
                                                                  1,991 mL
                                                                    801 mL
   Blood products:
   Total out:
                                                                  4,785 mL
                                                                    590 mL
   Urine:
                                                                  4,510 mL
                                                                    590 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,698 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 400) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/44/98.[**Numeric Identifier 500**]/28/5
   Ve: 6.7 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General: Intubated, sedated, opens eyes, able to follow commands
   HEENT: Sclera anicteric, PERRL, MMM, tongue significantly less
   swollen-almost at patient
s baseline
   Neck: supple, no LAD
   Lungs: CTAB - anteriorly
   CV: RRR, no murmurs
   Abdomen:  soft, NT/ND, + bs
   GU: Foley in place, draining yellow urine
   Ext: warm, well-perfused, no edema, 2+ dp pulses
   Labs / Radiology
   636 K/uL
   9.5 g/dL
   135 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.5 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   28.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2110-4-11**]  04:11 AM
                             [**2110-4-11**]  04:29 AM
                             [**2110-4-11**]  02:08 PM
                             [**2110-4-11**]  03:15 PM
                             [**2110-4-12**]  04:08 AM
                             [**2110-4-12**]  04:25 AM
                             [**2110-4-12**]  10:19 AM
                             [**2110-4-12**]  01:04 PM
                             [**2110-4-12**]  05:20 PM
                             [**2110-4-13**]  05:13 AM
   WBC
   11.8
   11.8
   11.1
   Hct
   28.8
   26.5
   28.9
   Plt
   [**Telephone/Fax (3) 11648**]
   Cr
   0.6
   0.5
   0.5
   0.6
   TCO2
   31
   32
   32
   27
   32
   32
   Glucose
   124
   120
   114
   135
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:85.8 %,
   Band:6.0 %, Lymph:10.0 %, Mono:4.2 %, Eos:0.0 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.4 mg/dL
   Imaging: CXR: (my read) no significant interval change.
   Microbiology: Sputum culture [**4-11**] negative.
   Blood cultures since [**4-1**] negative.
   Cdiff [**4-12**] negative.
   Assessment and Plan
   20 yo F with no past medical history admitted with community acquired
   multifocal pneumonia after failing outpatient treatment now intubated
   since [**4-5**], and improving on antibiotic therapy.
   # Respiratory Failure:  currently at AC 400x18, 50%, 8. Chest X-ray
   stable.
   - Continue chest PT, Tylenol PRN, Daily CXR
   - Continue to wean PEEP as tolerates
   - bronchscopy yesterday showed patent, non-edematous airway
   - weaning sedation, plan is for extubation today
   .
   # Multifocal PNA:  Afebrile overnight. Continues on Vanc/Azithromycin
   (Ceftriaxone d/cd on [**4-11**]), had persistently low grade temperatures &
   leukocytosis, but overall trend suggests improvement in fever & WBC
   without bands. CT results suggest some improvement, but significant
   continued infection and parenchymal involvement as well as some
   increasing, but still small pleural effusions. All endotracheal sputum
   cultures & blood cultures are negative to date.
   - Continue Vancomycin/Azithromycin, day 10
   - f/u blood cultures
   - f/u ID recs
   .
   # Angioedema: Patient had tongue & lip swelling swelling noted on [**4-9**].
   No fluctuance or submandibular LAD.  Received IV steroids x 48 hours
   with significant improvement in tongue swelling.
   - consulted allergy re: tongue swelling, C4 level added on (normal at
   40). Recs: solumedrol 40-60mg q8 x 24-48 hours, diphenhydramine 50mg q6
   x 24-48 hrs, send IgG, IgA, IgM (all wnl). SPEP and CH50 pending.
   - Now medications associated with angioedema side effects, per allergy
   review.
   # Anemia: Hct stable at 28.9 today, but admission Hct 37.1. Hemolysis
   labs negative & reticulocyte count obtained on [**4-7**] (0.6) demonstrates
   inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse HCT<21 (has not required any transfusions to date)
   # Fungal infection: Miconazole powder TP.
   # PPX: restarted bowel regimen, monitor stool output- patient had BM
   yesterday.
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2110-4-11**] 12:34 AM 45 mL/hour
   Lines:
   18 Gauge - [**2110-4-6**] 01:45 AM
   20 Gauge - [**2110-4-10**] 03:43 PM
   Arterial Line - [**2110-4-10**] 08:02 PM
   Left PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:  DVT:  Hep SC    Stress ulcer:  PPI
   Code status: Full code
   Disposition: ICU for now.
   ------ Protected Section ------
    MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**Last Name (STitle) 11429**]
 note
   above. [**Known firstname 538**] has remained stable on CPAP/ PSV overnight and tube feeds
   have been on hold. She has had no worsening of the swelling on her
   tongue and is now afebrile. She has received 48 hrs of steroids.
   We will plan on extubation today although I am concerned regarding
   narcotic withdrawal given the high doses of fentanyl she has been on.
   If needed, low dose morphine sulfate will be used in the
   peri-extubation period for agitation/ anxiety.
   She will need assistance with secretion clearance but suspect she has a
   strong cough to be able to handle this and pleuritic pain will not be a
   limiting factor. If she should have worsening pleural effusion, this
   may need to be tapped later in the week. Family updated and all
   questions answered.
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], M.D.
   Pulmonary, Critical Care and Sleep Medicine,
   CC time: 50 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2110-4-13**] 11:45 AM ------

2110-04-14 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2110-4-13**] 10:04 AM
   - today is Day#10 of Abx course
   - extubated without event - had mild hallucinations (visual and
   auditory after extubation)
   - may withdraw from fentanyl after extubation -- will use a little
   morphine peri-extubation -- need to distinguish between anxiety and
   pain
   - moderate effusion on CT, not needing to be tapped at this time - will
   wait until 1-2 days after extubation to see if it resolves
   - per ID:  C diff sent today for persistent diarrhea, pt still spiking
   temps - may be [**2-18**] fluid collection in lung, which may be loculated,
   may need to be tapped, but will wait another 1-2 days ; another vanc
   trough today
   - unable to drink water without coughing --> S&S ordered for tomorrow
   - aspirated ~4:30pm with trying to do Nystatin swish and swallow; CXR
   showed no changes
   - abdominal pressure [**8-26**] periumbilically, abdomen soft, 2mg IV
   morphine-- was relaxed rest of night ; still getting Speech/Swallow
   eval on Monday
   - switched zyprexa to SL zyprexa b/c of difficulty swallowing
   - cough overnight appears to be stronger than previously somewhat;
   dry-heaving from cough -- added prn phenergan
   - [**4-11**] C diff test negative ; blood cultures negative to date
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2110-4-11**] 11:16 AM
   Vancomycin - [**2110-4-13**] 11:06 PM
   Fluconazole - [**2110-4-14**] 12:37 AM
   Azithromycin - [**2110-4-14**] 05:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2110-4-13**] 08:50 PM
   Morphine Sulfate - [**2110-4-14**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-14**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 102 (64 - 139) bpm
   BP: 144/80(103) {133/65(89) - 168/103(125)} mmHg
   RR: 31 (19 - 45) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,413 mL
                                                                    636 mL
   PO:
             TF:
   IVF:
                                                                  3,353 mL
                                                                    636 mL
   Blood products:
   Total out:
                                                                  4,090 mL
                                                                    600 mL
   Urine:
                                                                  4,070 mL
                                                                    600 mL
   NG:
                                                                     20 mL
   Stool:
   Drains:
   Balance:
                                                                   -677 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 335 (335 - 362) mL
   PS : 5 cmH2O
   RR (Spontaneous): 35
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: 7.47/40/124/27/5
   Ve: 10.2 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General: nad, a&ox3
   HEENT: perrla, eomi, angioedema is much improved
   NECK: trachea midline, no lad
   Pulm: decr. L side, rhonchi throughout
   CVS: nl s1s2, no m/r/g, rrr
   ABD: soft, ntnd, + bs, no hsm
   EXT: from, strength 5/5
   Neuro: non-focal
   Labs / Radiology
   765 K/uL
   10.4 g/dL
   142 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   30.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2110-4-11**]  03:15 PM
                             [**2110-4-12**]  04:08 AM
                             [**2110-4-12**]  04:25 AM
                             [**2110-4-12**]  10:19 AM
                             [**2110-4-12**]  01:04 PM
                             [**2110-4-12**]  05:20 PM
                             [**2110-4-13**]  05:13 AM
                             [**2110-4-13**]  09:52 AM
                             [**2110-4-14**]  04:28 AM
                             [**2110-4-14**]  05:28 AM
   WBC
   11.8
   11.1
   10.7
   Hct
   26.5
   28.9
   30.4
   Plt
   572
   636
   765
   Cr
   0.5
   0.5
   0.6
   0.6
   TCO2
   32
   27
   32
   32
   29
   30
   Glucose
   120
   114
   135
   142
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:78.4 %,
   Band:6.0 %, Lymph:12.9 %, Mono:8.1 %, Eos:0.5 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   20 yo F with no past medical history admitted with community acquired
   multifocal pneumonia after failing outpatient treatment requiring
   intubation, improving on antibiotic therapy.
   # Respiratory Failure [**2-18**] multifocal PNA:  Successfully extubated.
   Chest X-ray stable. bronchoscopy showed patent, non-edematous airway.
   O/N, pt was continued on Vanc/Azithromycin (Ceftriaxone d/cd on [**4-11**]),
   had persistently low grade temperatures & leukocytosis, but overall
   trend suggests improvement in fever & WBC without bands. CT results
   suggest some improvement, but significant continued infection and
   parenchymal involvement as well as some increasing, but still small
   pleural effusions. All endotracheal sputum cultures & blood cultures
   are negative to date.
   - Continue chest PT, Tylenol PRN, Daily CXR
   - completed Vancomycin/Azithromycin x 10 days
   - d/c abx and continue to trend fever curve; consider re-imaging(CT)
   and contact IP if patient spikes
   - f/u ID recs
   - f/u BCx
   - If patient spikes, discuss with IP if sampling of pleural fluid (to
   assess for empyema) can be performed.  Otherwise, plan to consult
   Thoracics for VATS.
   # Angioedema: Patient had tongue & lip swelling swelling noted on [**4-9**].
   No fluctuance or submandibular LAD.  Received IV steroids x 48 hours
   with significant improvement in tongue swelling.
   - consulted allergy re: tongue swelling, C4 level added on (normal at
   40). Recs: solumedrol 40-60mg q8 x 24-48 hours, diphenhydramine 50mg q6
   x 24-48 hrs, send IgG, IgA, IgM (all wnl). SPEP and CH50 pending.
   - No medications associated with angioedema side effects, per allergy
   review.
   # Anemia: Hct stable at 28.9 today, but admission Hct 37.1. Hemolysis
   labs negative & reticulocyte count obtained on [**4-7**] (0.6) demonstrates
   inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse HCT<21 (has not required any transfusions to date)
   # Fungal infection: Continue fluconazole.
   # PPX: bowel regimen, monitor stool output - patient had BM yesterday.
   # FEN
 Patient cleared S+S.  ADAT.  Consider tube feeds placement if
   patient has trouble meeting nutrition goals with PO intake alone.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2110-4-10**] 08:02 PM
   PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-04-15 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2110-4-14**] 12:02 PM
 BLOOD CULTURED - At [**2110-4-15**] 12:30 AM
   from left picc
 SPUTUM CULTURE - At [**2110-4-15**] 12:30 AM
 URINE CULTURE - At [**2110-4-15**] 12:30 AM
 BLOOD CULTURED - At [**2110-4-15**] 12:40 AM
   from left picc
   - Stopped all antibiotics
   - Pt passed S&S eval, started on clear liquids; will need to monitor PO
   intake and consider NGT if not taking enough by mouth
   - Will monitor fever curve and if persistent fevers off antibiotics,
   will consult IP vs. IR for [**Female First Name (un) 231**] to r/o empyema
   - febrile to 100.9, got cultured
   - d/c'd a-line
   - TTE still pending
   - got OOB to chair today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2110-4-14**] 05:37 AM
   Vancomycin - [**2110-4-14**] 08:30 AM
   Fluconazole - [**2110-4-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-4-14**] 07:47 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-15**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.4
C (99.3
   HR: 101 (87 - 116) bpm
   BP: 118/60(74) {118/60(74) - 140/83(91)} mmHg
   RR: 23 (21 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.4 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,322 mL
                                                                    160 mL
   PO:
                                                                    370 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    952 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    635 mL
   Urine:
                                                                  2,750 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,428 mL
                                                                   -475 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   797 K/uL
   11.4 g/dL
   101 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.8 mEq/L
   16 mg/dL
   101 mEq/L
   139 mEq/L
   34.5 %
   10.1 K/uL
        [image002.jpg]
                             [**2110-4-12**]  04:08 AM
                             [**2110-4-12**]  04:25 AM
                             [**2110-4-12**]  10:19 AM
                             [**2110-4-12**]  01:04 PM
                             [**2110-4-12**]  05:20 PM
                             [**2110-4-13**]  05:13 AM
                             [**2110-4-13**]  09:52 AM
                             [**2110-4-14**]  04:28 AM
                             [**2110-4-14**]  05:28 AM
                             [**2110-4-15**]  04:01 AM
   WBC
   11.8
   11.1
   10.7
   10.1
   Hct
   26.5
   28.9
   30.4
   34.5
   Plt
   572
   636
   765
   797
   Cr
   0.5
   0.6
   0.6
   0.7
   TCO2
   32
   27
   32
   32
   29
   30
   Glucose
   114
   135
   142
   101
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:74.5 %,
   Band:6.0 %, Lymph:16.8 %, Mono:8.0 %, Eos:0.5 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   20 yo F with no past medical history admitted with community acquired
   multifocal pneumonia after failing outpatient treatment requiring
   intubation, improving on antibiotic therapy.
   # Respiratory Failure [**2-18**] multifocal PNA:  Successfully extubated.
   Chest X-ray stable. bronchoscopy showed patent, non-edematous airway.
   O/N, pt was continued on Vanc/Azithromycin (Ceftriaxone d/cd on [**4-11**]),
   had persistently low grade temperatures & leukocytosis, but overall
   trend suggests improvement in fever & WBC without bands. CT results
   suggest some improvement, but significant continued infection and
   parenchymal involvement as well as some increasing, but still small
   pleural effusions. All endotracheal sputum cultures & blood cultures
   are negative to date.
   - Continue chest PT, Tylenol PRN, Daily CXR
   - completed Vancomycin/Azithromycin x 10 days
   - d/c abx and continue to trend fever curve; consider re-imaging(CT)
   and contact IP if patient spikes
   - f/u ID recs
   - f/u BCx
   - If patient spikes, discuss with IP if sampling of pleural fluid (to
   assess for empyema) can be performed.  Otherwise, plan to consult
   Thoracics for VATS.
   # Angioedema: Patient had tongue & lip swelling swelling noted on [**4-9**].
   No fluctuance or submandibular LAD.  Received IV steroids x 48 hours
   with significant improvement in tongue swelling.
   - consulted allergy re: tongue swelling, C4 level added on (normal at
   40). Recs: solumedrol 40-60mg q8 x 24-48 hours, diphenhydramine 50mg q6
   x 24-48 hrs, send IgG, IgA, IgM (all wnl). SPEP and CH50 pending.
   - No medications associated with angioedema side effects, per allergy
   review.
   # Anemia: Hct stable at 28.9 today, but admission Hct 37.1. Hemolysis
   labs negative & reticulocyte count obtained on [**4-7**] (0.6) demonstrates
   inappropriate compensation likely [**2-18**] infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse HCT<21 (has not required any transfusions to date)
   # Fungal infection: Continue fluconazole.
   # PPX: bowel regimen, monitor stool output - patient had BM yesterday.
   # FEN
 Patient cleared S+S.  ADAT.  Consider tube feeds placement if
   patient has trouble meeting nutrition goals with PO intake alone.
 ANXIETY
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RASH
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2110-04-16 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2110-4-15**] 09:33 AM
   - gotten a light bolus of 500cc
   - CM contact[**Name (NI) **] regarding rehab, father like to be kept informed
   [**Numeric Identifier 11691**]/[**Numeric Identifier 11692**].
   - allergy and pulm rec: follow up as outpatient - need to make appts.
   Allergy would like us to discuss with ID if it would be diagnostically
   helpful to measure major S. pneumoniae serotype titers.
   - ID - d/c foley; would continue monitoring for 1-2 days
   - PT did not come and see her, but pt was able to walk around the ICU
   without desat - want to go home vs. floor then home (no rehab).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2110-4-14**] 05:37 AM
   Vancomycin - [**2110-4-14**] 08:30 AM
   Fluconazole - [**2110-4-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-4-15**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2110-4-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 75 (75 - 106) bpm
   BP: 115/60(74) {97/58(69) - 135/81(91)} mmHg
   RR: 28 (15 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,210 mL
                                                                    100 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    610 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                      0 mL
   Urine:
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   697 K/uL
   11.4 g/dL
   103 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   34.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2110-4-12**]  04:25 AM
                             [**2110-4-12**]  10:19 AM
                             [**2110-4-12**]  01:04 PM
                             [**2110-4-12**]  05:20 PM
                             [**2110-4-13**]  05:13 AM
                             [**2110-4-13**]  09:52 AM
                             [**2110-4-14**]  04:28 AM
                             [**2110-4-14**]  05:28 AM
                             [**2110-4-15**]  04:01 AM
                             [**2110-4-16**]  03:50 AM
   WBC
   11.1
   10.7
   10.1
   9.1
   Hct
   28.9
   30.4
   34.5
   34.3
   Plt
   [**Telephone/Fax (3) 11693**]97
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   32
   27
   32
   32
   29
   30
   Glucose
   135
   142
   101
   103
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:74.5 %,
   Band:6.0 %, Lymph:16.8 %, Mono:8.0 %, Eos:0.5 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   20 yo F with no past medical history admitted with community acquired
   multifocal pneumonia after failing outpatient treatment requiring
   intubation, improving on antibiotic therapy.
   # Respiratory Failure [**2-18**] multifocal PNA:  Successfully extubated.
   Chest X-ray stable. bronchoscopy showed patent, non-edematous airway.
   O/N, pt was continued on Vanc/Azithromycin (Ceftriaxone d/cd on [**4-11**]),
   had persistently low grade temperatures & leukocytosis, but overall
   trend suggests improvement in fever & WBC without bands. CT results
   suggest some improvement, but significant continued infection and
   parenchymal involvement as well as some increasing, but still small
   pleural effusions. All endotracheal sputum cultures & blood cultures
   are negative to date.  Completed 10day course of vanco and azithro.
   - Continue chest PT, Tylenol PRN
   - Completed abx course, continue to trend fever curve; consider
   re-imaging(CT) and contact IP if patient spikes
   - f/u ID recs, BCx
   - If patient spikes, discuss with IP if sampling of pleural fluid (to
   assess for empyema) can be performed.  Otherwise, plan to consult
   Thoracics for VATS.
   -  Plan for d/c home today after physical therapy pending discussion
   with family
   # Angioedema: Patient had tongue & lip swelling swelling noted on [**4-9**].
   No fluctuance or submandibular LAD.  Received IV steroids x 48 hours
   with significant improvement in tongue swelling.
   - consulted allergy re: tongue swelling, C4 level added on (normal at
   40). Recs: solumedrol 40-60mg q8 x 24-48 hours, diphenhydramine 50mg q6
   x 24-48 hrs, send IgG, IgA, IgM (all wnl). SPEP and CH50 pending.
   - No medications associated with angioedema side effects, per allergy
   review.
   # Anemia: Hct stable at 34.3 today; admission Hct 37.1, improved from
   prior Hct drop.  Hemolysis labs negative & reticulocyte count obtained
   on [**4-7**] (0.6) demonstrates inappropriate compensation likely [**2-18**]
   infection
   - Trend daily HCT
   - PIV x 2
   - Goal to transfuse HCT<21 (has not required any transfusions to date)
   # Fungal infection: Continue fluconazole.  Will transition to PO
   fluconazole.
   # PPX: bowel regimen, monitor stool output - patient had BM yesterday.
   # FEN
 Patient cleared S+S.  ADAT.  Pt tolerated solid diet this
   morning.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  PPI PO
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor vs. d/c home today

2110-04-16 14:46:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues to feel stronger. Walked around ICU
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2110-4-15**] 09:33 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2110-4-14**] 05:37 AM
   Vancomycin - [**2110-4-14**] 08:30 AM
   Fluconazole - [**2110-4-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2110-4-16**] 08:28 AM
   Heparin Sodium (Prophylaxis) - [**2110-4-16**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2110-4-16**] 02:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**12**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 92 (75 - 106) bpm
   BP: 138/73(85) {112/58(73) - 138/81(91)} mmHg
   RR: 28 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,210 mL
                                                                    340 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    610 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                    800 mL
   Urine:
                                                                  1,195 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : R, No(t) Hyperresonant: , Dullness : L),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: L base,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   697 K/uL
   103 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   139 mEq/L
   34.3 %
   9.1 K/uL
        [image002.jpg]
                             [**2110-4-12**]  04:25 AM
                             [**2110-4-12**]  10:19 AM
                             [**2110-4-12**]  01:04 PM
                             [**2110-4-12**]  05:20 PM
                             [**2110-4-13**]  05:13 AM
                             [**2110-4-13**]  09:52 AM
                             [**2110-4-14**]  04:28 AM
                             [**2110-4-14**]  05:28 AM
                             [**2110-4-15**]  04:01 AM
                             [**2110-4-16**]  03:50 AM
   WBC
   11.1
   10.7
   10.1
   9.1
   Hct
   28.9
   30.4
   34.5
   34.3
   Plt
   [**Telephone/Fax (3) 11693**]97
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   32
   27
   32
   32
   29
   30
   Glucose
   135
   142
   101
   103
   Other labs: PT / PTT / INR:14.1/25.4/1.2, ALT / AST:33/64, Alk Phos / T
   Bili:34/0.2, Amylase / Lipase:63/28, Differential-Neuts:74.5 %,
   Band:6.0 %, Lymph:16.8 %, Mono:8.0 %, Eos:0.5 %, Lactic Acid:0.7
   mmol/L, Albumin:2.5 g/dL, LDH:457 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 VENTILATION, IMPAIRED
 ANXIETY
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RASH
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Making rapid progress. Likely she will take several months to return to
   baseline but now beginning to ambulate, regain strength. Starting to
   eat. Temp is trending down. Little suspicion of metastatic infection.
   Off abx. Will need f/u CXR in several weeks
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:
   Lines:
   PICC Line - [**2110-4-11**] 02:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 35 minutes